US08420681B2
18 g of 1-p-tolylaminocyclohexanecarbonitrile are dissolved in 90 ml of acetic acid in a 250 ml three-necked flask, at room temperature and under nitrogen, the mixture is heated to 35° C., 8.74 g of NaOCN are then added portionwise, heating is continued up to 60° C. and the mixture is stirred for 2 hours. 29 ml of 12N HCl and then 19 ml of water are introduced into the reaction medium, which is then heated for 30 minutes from 50 to 90° C. The reaction medium is transferred into about 1 l of water and a white precipitate forms, which is recovered by filtration and then dried. The product 1-p-tolyl-1,3-diazaspiro[4.5]decane-2,4-dione is obtained in the form of a white solid.

reactant | 1-p-tolylaminocyclohexanecarbonitrile | 18 g | C1(=CC=C(C=C1)NC1(CCCCC1)C#N)C | C14H18N2
reactant | NaOCN | 8.74 g | O([Na])C#N
reactant | HCl | 12N, 29 ml | Cl | ClH
reactant | water | 19 ml | O | H2O
reactant | water | about 1 l | O | H2O
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
product | 1-p-tolyl-1,3-diazaspiro[4.5]decane-2,4-dione | C1(=CC=C(C=C1)N1C(NC(C12CCCCC2)=O)=O)C | C15H18N2O2
